US05648372
The 2-amino-5-(1,2,3-triazol-2-yl)-thiophenol (2.3 g) was dissolved in N-methylpyrrolidone (8 ml), and propionyl chloride (0.472 ml) was added to the solution, followed by heating and stirring at 70° C. for 5 hours. The reaction mixture was poured into a saturated aqueous solution of sodium hydrogencarbonate, and subjected to extraction with dichloromethane. The resultant organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure and then purified through a silica gel column (hexane-ethyl acetate=4:1→1:1), thereby obtaining the intended compound, 2-ethyl-6-(1,2,3-triazol-2-yl)benzothiazole (940 mg). Physical properties of this product are described below.

reactant | 2-amino-5-(1,2,3-triazol-2-yl)-thiophenol | 2.3 g | NC1=C(C=C(C=C1)N1N=CC=N1)S | C8H8N4S
reactant | propionyl chloride | 0.472 ml | C(CC)(=O)Cl | C3H5ClO
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N-methylpyrrolidone | 8 ml | CN1C(CCC1)=O | C5H9NO
product | 2-ethyl-6-(1,2,3-triazol-2-yl)benzothiazole | 940 mg | C(C)C=1SC2=C(N1)C=CC(=C2)N2N=CC=N2 | C11H10N4S
